US08124606B2
Compound 117A: 3-chloro-N-cyclopropyl-4-fluorobenzamide:
Using cyclopropylamine and 3-chloro-4-fluorobenzoic acid in the general procedure for coupling of amines to carboxylic acids, the title compound was obtained (89% yield) as a white solid. 1H NMR (DMSO-d6, 400 MHz): δ=8.56 (d, J=3.5 Hz, 1H), 8.03 (dd, J=7.3, 2.3 Hz, 1H), 7.85 (ddd, J=8.6, 4.8, 2.3 Hz, 1H), 7.52 (t, J=9.0 Hz, 1H), 2.83 (tq, J=7.4, 3.9 Hz, 1H), 0.66-0.75 (m, 2H), 0.53-0.61 ppm (m, 2H). ESI-MS: m/z 214.0 (M+H).

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 3-chloro-4-fluorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
product | 3-chloro-N-cyclopropyl-4-fluorobenzamide | 89% yield | ClC=1C=C(C(=O)NC2CC2)C=CC1F | C10H9ClFNO
